US07402592B2
Ethyl 6-hydroxy-6-(5-phenoxy-3-pyridinyl)-3-azabicyclo[3.2.1]octane-3-carboxylate
To a solution of 3-bromo-5-phenoxypyridine (0.51 g, 2.0 mmol) in dry diethyl ether (15 mL) at −78° C. was added 2.5 M n-butyllithium (0.80 mL, 2.0 mmol). The reaction was stirred for 30 min under nitrogen at −78° C. and then slowly transferred by cannula into a solution of ethyl 6-oxo-3-azabicyclo[3.2.1]octane-3-carboxylate (0.20 g, 1.0 mmol) in THF (15 mL) at −78° C. The reaction was stirred 4 h at −78° C. and then warmed to ambient temperature overnight, at which time it was quenched with saturated aqueous ammonium chloride (20 mL). The mixture was then extracted with chloroform (2×10 mL), and the combined extracts were dried over sodium sulfate, filtered, and concentrated by rotary evaporation. Excess pyridine was removed by repeated azeotropic rotary evaporation with toluene, and the residue was chromatographed on a silica gel column (with 5% methanol in chloroform) to yield the desired product (0.31 g, 84%).

reactant | 3-bromo-5-phenoxypyridine | 2.0 mmol, 0.51 g | BrC=1C=NC=C(C1)OC1=CC=CC=C1 | C11H8BrNO
reactant | n-butyllithium | 2.0 mmol, 2.5 M, 0.80 mL | C(CCC)[Li]
reactant | ethyl 6-oxo-3-azabicyclo[3.2.1]octane-3-carboxylate | 1.0 mmol, 0.20 g | O=C1C2CN(CC(C1)C2)C(=O)OCC | C10H15NO3
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | Ethyl 6-hydroxy-6-(5-phenoxy-3-pyridinyl)-3-azabicyclo[3.2.1]octane-3-carboxylate | 0.31 g, 84% | OC1(C2CN(CC(C1)C2)C(=O)OCC)C=2C=NC=C(C2)OC2=CC=CC=C2 | C21H24N2O4
